US07820825B2
Preparation of (3′S)-1′-(4-benzylbenzoyl)-1,3′-bipyrrolidine Hydrochloride
A mixture of the HCl salt of 3-(pyrrolidino)pyrrolidine (0.44 g, 2.1 mmol) and 4-benzyl benzoic acid (0.34 g, 1.6 mmol) CH2Cl2 is treated sequentially at room temperature with 0.85 mL of triethylamine and solid benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate (1.2 g, 2.4 mmol), stirred for 16 h under nitrogen, diluted with CH2Cl2, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo. The concentrate is chromatographically purified. The purified material is treated with ethereal HCl to afford the title compound, identified by H1 NMR and mass spectral analyses.

reactant | HCl | Cl | ClH
reactant | 3-(pyrrolidino)pyrrolidine | 2.1 mmol, 0.44 g | N1(CCCC1)C1CNCC1 | C8H16N2
reactant | 4-benzyl benzoic acid | 1.6 mmol, 0.34 g | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
reactant | benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate | 2.4 mmol, 1.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.85 mL | C(C)N(CC)CC | C6H15N
product | (3′S)-1′-(4-benzylbenzoyl)-1,3′-bipyrrolidine Hydrochloride | Cl.C(C1=CC=CC=C1)C1=CC=C(C(=O)N2C[C@H](CC2)N2CCCC2)C=C1 | InChI=1S/C22H26N2O.ClH/c25-22(24-15-12-21(17-24)23-13-4-5-14-23)20-10-8-19(9-11-20)16-18-6-2-1-3-7-18;/h1-3,6-11,21H,4-5,12-17H2;1H/t21-;/m0./s1
